US06420426B1
A solution of N-(4-bromo-2-fluoro-benzyl)-4-chloro-2-hydroxy-benzamide (3.25 g, 9.06 mmol) in acetone (45 mL, 0.2 M) was treated with aq K2CO3 (2 M, 6.8 mL, 14 mmol) and ethyl bromoacetate (1.2 mL, 11 mmol). After being heated to 50° C. for 8 h, the solution was cooled to room temperature and concentrated under reduced pressure until most of the acetone was removed. The solution was acidified to pH 1-2 with 2 N HCl, diluted with ethyl acetate and washed with saturated aq NaCl. The organic layer was dried over Na2SO4, filtered and concentrated. Purification by MPLC (10-60% ethyl acetate in heptane, 23 mL/min, 70 min) gave [2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-chloro-phenoxy]-acetic acid ethyl ester as a white crystalline solid (3.78 g, 94%): mp 126-127° C.; Rf 0.61 (50% ethyl acetate in heptane); 1H NMR (DMSO-d6, 300 MHz) δ 8.90 (t, J=6 Hz, 1H), 7.82 (d, J=8.4 Hz, 1H), 7.52-7.47 (m, 1H), 7.39-7.31 (m, 2H),. 7.28 (d, J=1.8 Hz, 1H), 7.14 (dd, J=8.4 Hz, J2=1.8 Hz, 1H), 5.00, (s, 2H), 4.49 (d, J=6 Hz, 2H), 4.16 (q, J=7.2 Hz, 2H), 1.18 (t, J=6.6 Hz, 3H). ESI-LC/MS ml/z calcd for C18H16BrClFNO4: 444.7; found 446.0 (M+1)+. Anal. calcd for C18H16BrClFNO4: C, 48.62; H, 3.63; N, 3.15; Cl, 15.95. Found C, 48.57; H, 3.63; N, 3.11; Cl, 16.00.

reactant | N-(4-bromo-2-fluoro-benzyl)-4-chloro-2-hydroxy-benzamide | 9.06 mmol, 3.25 g | BrC1=CC(=C(CNC(C2=C(C=C(C=C2)Cl)O)=O)C=C1)F | C14H10BrClFNO2
reactant | K2CO3 | 14 mmol, 2 M, 6.8 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromoacetate | 11 mmol, 1.2 mL | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 0.2 M, 45 mL | CC(=O)C | C3H6O
product | [2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-chloro-phenoxy]-acetic acid ethyl ester | 3.78 g, 94% | C(C)OC(COC1=C(C=CC(=C1)Cl)C(NCC1=C(C=C(C=C1)Br)F)=O)=O | C18H16BrClFNO4
